US06380238B1
6-Chloro-7-fluoroindole-2-carboxylic Acid
A stirred solution of methyl 6-chloro-7-fluoroindole-2-carboxylate (2.3 g, 10 mmol), tetrahydrofuran (20 mL) and aqueous sodium hydroxide solution (2 N, 20 mL) was heated under reflux for 16 h. The mixture was cooled to room temperature and partitioned between aqueous sulfiuric acid (2 M, 30 mL) and ethyl acetate (3×30 mL). The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to give the product (2.1 g, 98% yield) as a white solid: IR νmax (Nujol)/cm−1 1681, 1557, 1263, 1206, 926 and 840; NMR δH (400 MHz, DMSO-d6) 7.01-7.12 (2H, m) and 7.31-7.34 (1H, m).

reactant | methyl 6-chloro-7-fluoroindole-2-carboxylate | 10 mmol, 2.3 g | ClC1=CC=C2C=C(NC2=C1F)C(=O)OC | C10H7ClFNO2
reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-Chloro-7-fluoroindole-2-carboxylic Acid | 2.1 g, 98% yield | ClC1=CC=C2C=C(NC2=C1F)C(=O)O | C9H5ClFNO2
